US06849419B1
Each 3-mg portion of the 32-clone monoclonal antibodies prepared in (1) was mixed with 10 mg of biotinyl N-hydroxysuccinimide ester (product of Zymed) and the reaction was carried out in 0.1 M sodium hydrogen carbonate (pH 8) with stirring at room temperature for 3 hours. The reaction mixture was dialyzed overnight against 5 L of PBS at 4° C. to give the biotin-labeled monoclonal antibody.

reactant | biotinyl N-hydroxysuccinimide ester | 10 mg | C1CC(=O)N(C1=O)OC(=O)CCCCC2C3C(CS2)NC(=O)N3 | C14H19N3O5S
solvent | sodium hydrogen carbonate | 0.1 M, pH 8 | C(O)([O-])=O.[Na+]
product | biotin | OC(=O)CCCC[C@@H]1SC[C@@H]2NC(=O)N[C@H]12 | C10H16N2O3S
